US04175135
A solution of 20.0 g (0.106 mol) of 5-phenylcyclohexane-1,3-dione in 75 ml ethanol was cooled to -10° C. and stirred magnetically under nitrogen. To the mixture was added 10.75 g (0.106 mol) of triethylamine. The tosyl azide (20.95 g 0.106 mol) was added all at once, and the mixture stirred for one hour at C-5° C. The solvent was removed under vacuum at a temperature less than 40° C. To the residue was added 200 ml ether, and the mixture extracted with a solution containing 3.1 g potassium hydroxide in 200 ml of water. The ethereal solution was dried over anhydrous MgSO4 filtered and the solvent removed to give a yellow solid which was recrystallized from ethanol-hexane to give 8.38 g (32%) of 2-diazo-5-phenylcyclohexane-1,3-dione as yellow crystals, mp 122°-124° C.

reactant | 5-phenylcyclohexane-1,3-dione | 0.106 mol, 20.0 g | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
reactant | triethylamine | 0.106 mol, 10.75 g | C(C)N(CC)CC | C6H15N
reactant | tosyl azide | 0.106 mol, 20.95 g | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-diazo-5-phenylcyclohexane-1,3-dione | 8.38 g, 32% | [N+](=[N-])=C1C(CC(CC1=O)C1=CC=CC=C1)=O | C12H10N2O2
